US09302989B2
N-[4-(1-isobutyl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
In a 4 mL were mixed N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide (50 mg, 0.157 mmol) and isobutyraldehyde (0.014 ml, 0.157 mmol) in anhydrous dichloroethane (2 ml) at room temperature. Sodium triacetoxyborohydride (46.4 mg, 0.219 mmol) was added, and reaction was stirred overnight. The reaction mixture was diluted with water, ethyl acetate and saturated aqueous sodium bicarbonate. The layers were separated and the organic layer was washed with brine. The organic layer was diluted with methanol, dried with sodium sulfate, filtered and concentrated. The residue was purified by flash chromatography to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.35 (s, 1H), 7.53-7.55 (m, 2H), 7.30-7.38 (m, 6H), 6.06-6.08 (m, 1H), 4.77 (s, 4H), 3.01-3.03 (m, 2H), 2.57 (t, J=5.6 Hz, 2H), 2.41-2.47 (m, 2H), 2.14 (d, J=7.3 Hz, 2H), 1.77-1.88 (m, 1H), 0.88 (d, J=6.5 Hz, 6H); MS (ESI(−)) m/e 374 (M−H)−.

reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide | 0.157 mmol, 50 mg | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
reactant | isobutyraldehyde | 0.157 mmol, 0.014 ml | C(C(C)C)=O | C4H8O
reactant | Sodium triacetoxyborohydride | 0.219 mmol, 46.4 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-[4-(1-isobutyl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C(C)C)N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C24H29N3O
